US06362177B1
A mixture of (R)-3-[{N-(2-amino-5-trifluoromethylbenzoyl)glycyl}amino]-1-(4,5-methylenedioxy-2-nitrobenzyl)pyrrolidine (30.5 mg), 10% Pd-activated carbone (6 mg), and methanol (3 mL) was stirred under a hydrogen atmosphere at room temperature for 10 h. The Pd catalyst was filtered off through Celite, and the filtrate was concentrated. Solid phase extraction (Bond Elut™ SI, 20% methanol/AcOEt) afforded (R)-1-(2-amino-4,5-methylenedioxybenzyl)-3-[{N-(2-amino-5-trifluoromethylbenzoyl)glycyl}amino]pyrrolidine (Compound No. 2127) (21.9 mg, 76%): The purity was determined by RPLC/MS (95%); ESI/MS m/e 480.1 (M++H, C22H24F3N5N4).

reactant | (R)-3-[{N-(2-amino-5-trifluoromethylbenzoyl)glycyl}amino]-1-(4,5-methylenedioxy-2-nitrobenzyl)pyrrolidine | 30.5 mg | NC1=C(C(=O)NCC(=O)N[C@H]2CN(CC2)CC2=C(C=C3C(=C2)OCO3)[N+](=O)[O-])C=C(C=C1)C(F)(F)F | C22H22F3N5O6
catalyst | Pd | [Pd] | Pd
solvent | methanol | 3 mL | CO | CH4O
product | (R)-1-(2-amino-4,5-methylenedioxybenzyl)-3-[{N-(2-amino-5-trifluoromethylbenzoyl)glycyl}amino]pyrrolidine | NC1=C(CN2C[C@@H](CC2)NC(CNC(C2=C(C=CC(=C2)C(F)(F)F)N)=O)=O)C=C2C(=C1)OCO2 | C22H24F3N5O4
